US09371336B2
To a solution of tert-butyl 4-(5-formyl-6-hydroxypyridin-2-yl)-1,4-diazepane-1-carboxylate (600 mg, 1.87 mmol) in EtOH (4 mL) were treated with piperidine (239 mg, 2.8 mmol), acetic acid (511 mg, 9.35 mmol) and ethyl acetoacetate (487 mg, 3.74 mmol) at room temperature. The reaction mixture was stirred at 90° C. for 3 hours. The mixture was concentrated, quenched with a saturated NaHCO3 solution and extracted with dichloromethane three times. The combined organic layers were combined, dried over K2CO3, filtered and concentrated. The residue was purified on silica gel with methanol (0-10%) in dichloromethane to provide tert-butyl 4-(3-acetyl-2-oxo-2H-pyrano[2,3-b]pyridin-7-yl)-1,4-diazepane-1-carboxylate (450 mg, 62%). MS m/z 388 [M+H]+.

reactant | tert-butyl 4-(5-formyl-6-hydroxypyridin-2-yl)-1,4-diazepane-1-carboxylate | 1.87 mmol, 600 mg | C(=O)C=1C=CC(=NC1O)N1CCN(CCC1)C(=O)OC(C)(C)C | C16H23N3O4
reactant | piperidine | 2.8 mmol, 239 mg | N1CCCCC1 | C5H11N
reactant | acetic acid | 9.35 mmol, 511 mg | C(C)(=O)O | C2H4O2
reactant | ethyl acetoacetate | 3.74 mmol, 487 mg | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | EtOH | 4 mL | CCO | C2H6O
product | tert-butyl 4-(3-acetyl-2-oxo-2H-pyrano[2,3-b]pyridin-7-yl)-1,4-diazepane-1-carboxylate | 450 mg, 62% | C(C)(=O)C1=CC=2C(=NC(=CC2)N2CCN(CCC2)C(=O)OC(C)(C)C)OC1=O | C20H25N3O5
